US05300498
Methyl 6-(4-methyl-1-piperazinyl)-1H-pyrazolo[3,4-b]pyridine-3-carboxylate
6-(4-Methyl-1-piperazinyl)-1H-pyrazolo[3,4-b]pyridine-3-carboxylate trifluoroacetate (1.82 g, 4.8 mmole) was refluxed overnight in 300 mL of MeOH containing 2 mL of concentrated H2SO4. The reaction mixture was concentrated to ca. 100 mL and then distributed between EtOAc and an aqueous NaHCO3 solution. The aqueous phase was extracted additional two times with EtOAc and then the combined organic phase was dried and concentrated. Recrystallization from MeOH gave 1.21 g (91%) of analytically pure product, mp 230° -231° C.

reactant | 6-(4-Methyl-1-piperazinyl)-1H-pyrazolo[3,4-b]pyridine-3-carboxylate trifluoroacetate | 4.8 mmole, 1.82 g | FC(C(=O)O)(F)F.CN1CCN(CC1)C1=CC=C2C(=N1)NN=C2C(=O)O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | MeOH | 300 mL | CO | CH4O
product | Methyl 6-(4-methyl-1-piperazinyl)-1H-pyrazolo[3,4-b]pyridine-3-carboxylate | CN1CCN(CC1)C1=CC=C2C(=N1)NN=C2C(=O)OC | C13H17N5O2
